US05574178
Lithium aluminum hydride (1.90 g) was suspended in tetrahydrofuran (200 ml) under a nitrogen atmosphere. A solution of 5-acetoxy-2,2-diisoamyl-4,6-di-tert-butyl-2,3-dihydrobenzofuran (17.4 g) in tetrahydrofuran (60 ml) was added dropwise to the suspension under cooling with ice. After heating under reflux overnight, the mixture was cooled to room temperature and water and a saturated aqueous solution of ammonium chloride were added in that order. The resulting insolubles were filtered off on Celite. The filtrate was subjected to extraction with diethyl ether, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off. The residue was purified by silica gel chromatography (n-hexane) to afford 2,2-diisoamyl-4,6-di-tert-butyl-5-hydroxy-2,3-dihydrobenzofuran [9.0 g (yield, 57%)] as a colorless oil.

reactant | Lithium aluminum hydride | 1.90 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-acetoxy-2,2-diisoamyl-4,6-di-tert-butyl-2,3-dihydrobenzofuran | 17.4 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CCC(C)C)CCC(C)C)C1C(C)(C)C)C(C)(C)C | C28H46O3
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2,2-diisoamyl-4,6-di-tert-butyl-5-hydroxy-2,3-dihydrobenzofuran | 9.0 g, 57% | C(CC(C)C)C1(OC2=C(C1)C(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)CCC(C)C | C26H44O2
